US07129351B2
3-Nitrophenethyl alcohol (55 g, 0.33 mol) (Aldrich) was dissolved in pyridine (1.2 L) (Aldrich). Acetic anhydride (215 mL, 2.14 mol) (Aldrich) was added slowly, and the mixture was stirred overnight at room temperature (TLC: 30% ethyl acetate in hexanes showed complete conversion). Ice and water (200 mL) were poured into the reaction mixture. The mixture was diluted with ethyl acetate, then successively washed with aqueous 1N hydrochloric acid (pH=˜1), water, and brine. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give acetic acid 2-(3-nitro-phenyl)-ethyl ester as a yellow oil. (Yield 58.86 g, 0.28 mol, 85%).

reactant | 3-Nitrophenethyl alcohol | 0.33 mol, 55 g | [N+](=O)([O-])C=1C=C(CCO)C=CC1 | C8H9NO3
reactant | Acetic anhydride | 2.14 mol, 215 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 200 mL | O | H2O
solvent | pyridine | 1.2 L | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | acetic acid 2-(3-nitro-phenyl)-ethyl ester | [N+](=O)([O-])C=1C=C(C=CC1)CCOC(C)=O | C10H11NO4
